US08293903B2
Step 4. 1,5-Anhydro-3-{[(1S,4R)-4-[(benzyloxy)carbonyl]-4-(1-hydroxycyclobutyl)cyclopent-2-en-1-yl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol
A solution of 3.83 g (13.3 mmol) of benzyl (1R,4S)-4-amino-1-(1-hydroxycyclobutyl)cyclopent-2-ene-1-carboxylate (Preparation SRT-0235) and 1.89 g (14.5 mmol) of (3R)-3-methoxytetrahydro-4H-pyran-4-one in 26 mL of dichloromethane was stirred with activated 3 A molecular sieves for 10 min, then cooled to 0 C. Sodium triacetoxyborohydride (3.35 g, 15.8 mmol) was added in several portions over 10 min, and the mixture was stirred for 1.5 h. The cloudy mixture was added to dichloromethane and aqueous NaHCO3+NaOH (pH ˜14), and the aqueous phase was extracted with several additional portions of dichloromethane. The organic phase was dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography of the residue on silica using 3-5% methanolic ammonia (7M) in dichloromethane afforded 3.94 g (74%) of the title compound as a yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.41-1.52 (m, 1H) 1.55-1.64 (m, 1H) 1.64-1.79 (m, 2H) 1.86-2.09 (m, 5H) 2.19-2.29 (m, 1H) 2.41 (dd, J=14.2, 7.7 Hz, 1H) 2.84-2.91 (m, 1H) 3.17-3.44 (m, 4H) 3.34 (s, 3H) 3.88-3.96 (m, 2H) 4.00 (dd, J=12.3, 4.4 Hz, 1H) 5.10-5.20 (m, 2H) 5.88-5.93 (m, 1H) 6.00 (dd, J=5.6, 1.9 Hz, 1H) 7.28-7.39 (m, 5H). TLC Rf 0.41 (4% 7M methanolic ammonia in dichloromethane). LC-MS ES+ 402.1.

reactant | benzyl (1R,4S)-4-amino-1-(1-hydroxycyclobutyl)cyclopent-2-ene-1-carboxylate | 13.3 mmol, 3.83 g | N[C@@H]1C=C[C@@](C1)(C(=O)OCC1=CC=CC=C1)C1(CCC1)O | C17H21NO3
reactant | (3R)-3-methoxytetrahydro-4H-pyran-4-one | 14.5 mmol, 1.89 g | CO[C@@H]1COCCC1=O | C6H10O3
reactant | Sodium triacetoxyborohydride | 15.8 mmol, 3.35 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 NaOH | pH ˜14 | C(=O)(O)[O-].[Na+].[OH-].[Na+]
solvent | dichloromethane | 26 mL | ClCCl | CH2Cl2
product | 1,5-Anhydro-3-{[(1S,4R)-4-[(benzyloxy)carbonyl]-4-(1-hydroxycyclobutyl)cyclopent-2-en-1-yl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol | 3.94 g, 74% | C(C1=CC=CC=C1)OC(=O)[C@]1(C=C[C@H](C1)N[C@H]1CCOC[C@H]1OC)C1(CCC1)O | C23H31NO5
